US07091214B2
tert-Butyl {4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-ylmethyl]benzyl}carbamate (0.660 g) was added to ethanolic hydrogen chloride (4M, 10 mL) and the solution was heated at reflux temperature for 30 minutes. The reaction was cooled to room temperature and concentrated under reduced pressure. Diethyl ether and water were added to the oily residue and the layers were separated. The aqueous fraction was brought to pH 13 with 10% aqueous sodium hydroxide and then extracted sequentially with dichloromethane and dichloromethane containing 5% methanol. The organic fractions were combined, washed sequentially with water and saturated aqueous sodium chloride, dried over sodium sulfate, filtered, and concentrated under reduced pressure to yield 0.526 g of 1-(4-aminomethylbenzyl)-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine as an off-white solid, mp 211.0–213.5° C.

reactant | tert-Butyl {4-[4-amino-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-1-ylmethyl]benzyl}carbamate | 0.660 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC2=CC=C(CNC(OC(C)(C)C)=O)C=C2)COCC)C=2C=NC=CC2 | C31H34N6O3
solvent | hydrogen chloride | 4M, 10 mL | Cl | ClH
product | 1-(4-aminomethylbenzyl)-2-ethoxymethyl-7-(pyridin-3-yl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.526 g | NCC1=CC=C(CN2C(=NC=3C(=NC=4C=C(C=CC4C32)C=3C=NC=CC3)N)COCC)C=C1 | C26H26N6O
